US03970689
Freshly distilled thioacetic acid (64 g) was added with stirring and occasional cooling to a mixture of 98 g 3-methyloct-2-enal and 25 mg of benzoyl peroxide. After 5 hours of reflux the mixture was distilled in vacuo through a 20 cm vigreux column yielding 62.5 g (41.3%) of 3-acetylthio-3-methyloctanal, b.p. 100°-112°C/0.5 mm.

reactant | thioacetic acid | 64 g | C(C)(=S)O | C2H4OS
reactant | 3-methyloct-2-enal | 98 g | CC(=CC=O)CCCCC | C9H16O
catalyst | benzoyl peroxide | 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-acetylthio-3-methyloctanal | 62.5 g, 41.3% | C(C)(=O)SC(CC=O)(CCCCC)C | C11H20O2S
